US08008506B2
Methyl 4-(benzyloxy)-2-fluorobenzoate
Methyl 2-fluoro-4-hydroxybenzoate (1.4685 g; manufactured by Changzou Fine Chemical Co., Ltd.) and potassium carbonate (3.6-917 g; manufactured by Sigma-Aldrich Co.) were suspended in dehydrated DMF (21 mL; manufactured by Kanto Chemical Co., Inc.), and benzyl bromide (1.22 mL; manufactured by Wako Pure Chemical Industries, Ltd.) was added thereto. The mixture was stirred overnight at 50° C. The reaction solution was cooled to room temperature, and then was poured into water. The mixture was extracted two times with ethyl acetate. The organic layer was washed twice with water and once with brine, and was dried over anhydrous sodium sulfate. Subsequently, the solvent was evaporated under reduced pressure, and the residue was purified by column chromatography (“COLUMN-B”; n-hexane:ethyl acetate=97:3→77:23). Thus, the title compound (2.2207 g) was obtained.

reactant | Methyl 2-fluoro-4-hydroxybenzoate | 1.4685 g | FC1=C(C(=O)OC)C=CC(=C1)O | C8H7FO3
reactant | potassium carbonate | 3.6-917 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 1.22 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | O | H2O
solvent | DMF | 21 mL | CN(C)C=O | C3H7NO
product | Methyl 4-(benzyloxy)-2-fluorobenzoate | 2.2207 g | C(C1=CC=CC=C1)OC1=CC(=C(C(=O)OC)C=C1)F | C15H13FO3
